US05478820
4-Methylthio-3-nitrobenzoic acid (4.36 g, 20 mM) was dissolved in acetic acid (200 ml), and treated at ambient temperature with H2O2 (2.5 ml, 30%, 22 mM). After stirring at ambient temperature for 4 days, excess peroxide was decomposed with sodium metabisulfite, and solvent evaporated. The residue was purified by chromatography on silica, eluting with methanol, to give 4-methanesulphinyl-3-nitrobenzoic acid (4.1 g, 89%), mp 238°-239°. Nmr (DMSO-d6): δ2.90 (s, 3H); 8.29 (d, 1H); 8.56 (dd, 1H); 8.68 (d, 1H).

reactant | 4-Methylthio-3-nitrobenzoic acid | 20 mM, 4.36 g | CSC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO4S
reactant | H2O2 | 22 mM, 2.5 ml | OO | H2O2
reactant | sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 4-methanesulphinyl-3-nitrobenzoic acid | 4.1 g, 89% | CS(=O)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5S
